US07358014B2
5-Methyl-1-Phenyl-3-(1-Phenylhydrazino)-Pyrazole 5-Methyl-1-phenyl-3-(1-phenylhydrazino)-pyrazole can be prepared according to the procedure described in J. Chem. Soc. C (1971), (12), 2314-17 by Boyd et el., which is incorporated herein by reference.
Compound (45) can be prepared by the procedure for Compound (41) except 5-methyl-1-phenyl-3-(1-phenylhydrazino)-pyrazole (2.64 g, 0.01 mole) is replaced with 0.1 mole of 1-phenylhydrazino-pyrazole.

reactant | 5-methyl-1-phenyl-3-(1-phenylhydrazino)-pyrazole | 0.01 mole, 2.64 g | CC1=CC(=NN1C1=CC=CC=C1)N(N)C1=CC=CC=C1 | C16H16N4
reactant | 1-phenylhydrazino-pyrazole | 0.1 mole | C1(=CC=CC=C1)N(N)C1=NNC=C1 | C9H10N4
product | 5-Methyl-1-Phenyl-3-(1-Phenylhydrazino)-Pyrazole 5-Methyl-1-phenyl-3-(1-phenylhydrazino)-pyrazole | CC1=CC(=NN1C1=CC=CC=C1)N(N)C1=CC=CC=C1.CC1=CC(=NN1C1=CC=CC=C1)N(N)C1=CC=CC=C1 | 2C16H16N4
